US07105671B2
A solution of 2-hydroxy-cyclopentanecarboxylic acid ethyl ester (3.5 g, 22.12 mmol) in methylene chloride (147.5 mL) was treated with 3,4-dihydro-2H-pyran (3.03 mL, 33.1 mmol) and pyridinium p-toluenesulfonate (556 mg, 2.21 mmol). This solution was stirred at 25° C. for 5 h. The reaction was then washed with a half-saturated aqueous sodium chloride solution (2×75 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 90/10 hexanes/ethyl acetate) afforded 2-(tetrahydro-pyran-2-yloxy)-cyclopentanecarboxylic acid ethyl ester (4.7 g, 87.7%) as a clear liquid: EI-HRMS m/e calcd for C13H22O4 (M+) 242.1518 found 242.1521.

reactant | 2-hydroxy-cyclopentanecarboxylic acid ethyl ester | 22.12 mmol, 3.5 g | C(C)OC(=O)C1C(CCC1)O | C8H14O3
reactant | 3,4-dihydro-2H-pyran | 33.1 mmol, 3.03 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 2.21 mmol, 556 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 147.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(tetrahydro-pyran-2-yloxy)-cyclopentanecarboxylic acid ethyl ester | 4.7 g, 87.7% | C(C)OC(=O)C1C(CCC1)OC1OCCCC1 | C13H22O4
